US04849427
Calcium 9-ethyl-6,9-dihydro-4,6-dioxo-10-propyl-4H-pyrano-[3,2-g]-quinoline-2,8-dicarboxylate
A filtered solution of disodium 9-ethyl-6,9-dihydro-4,6-dioxo-10-propyl-4H-pyrano-[3,2-g]-quinoline-2,8-dicarboxylate (75 g) in water (500 ml) was treated with a filtered solution of calcium nitrate (77 g) in water (500 ml). The mixture was stirred (2 hours) and then filtered. The solid obtained was washed with water and acetone, slurried first with water and then reslurried with acetone (500 ml). The solid was filtered off and dried in vacuo at 65° C. to give the title compound (73 g, contains 19.3% w/w water).

reactant | disodium 9-ethyl-6,9-dihydro-4,6-dioxo-10-propyl-4H-pyrano-[3,2-g]-quinoline-2,8-dicarboxylate | 75 g | C(C)N1C(=CC(C2=CC3=C(C(=C12)CCC)OC(=CC3=O)C(=O)[O-])=O)C(=O)[O-].[Na+].[Na+]
reactant | calcium nitrate | 77 g | [N+](=O)([O-])[O-].[Ca+2].[N+](=O)([O-])[O-]
solvent | water | 500 ml | O | H2O
solvent | water | 500 ml | O | H2O
product | Calcium 9-ethyl-6,9-dihydro-4,6-dioxo-10-propyl-4H-pyrano-[3,2-g]-quinoline-2,8-dicarboxylate | 73 g | C(C)N1C(=CC(C2=CC3=C(C(=C12)CCC)OC(=CC3=O)C(=O)[O-])=O)C(=O)[O-].[Ca+2] | InChI=1S/C19H17NO7.Ca/c1-3-5-9-16-10(13(21)7-12(18(23)24)20(16)4-2)6-11-14(22)8-15(19(25)26)27-17(9)11;/h6-8H,3-5H2,1-2H3,(H,23,24)(H,25,26);/q;+2/p-2
